US07112582B2
Step 3:1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dicarbaldehyde
To a stirred solution of 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dimethanol (1.18 g, 4 mmol) in methylene chloride (20 ml), was added 4-methylmorpholine-N-oxide (2.89 g, 24 mmol) and molecular sieve 4A (4 g). The reaction mixture was stirred at room temperature for 10 min. and then treated with tetrapropylammonium peruthenate (0.15 g, 0.4 mmol). Stirring was continued for 2 hr. The methylene chloride solution was concentrated and diluted with ether (40 ml). The mixture was filtered through a pad of silica gel (40 g) and the filter pad was eluted with 2×20 ml ether. The combined eluent was washed with 1 N HCl and brine, dried over anhydrous sodium sulfate, and evaporated to give 0.79 g of a white solid; mp 63–64° C.; MS m/e 283 (MH+).

reactant | 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dimethanol | 4 mmol, 1.18 g | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C=C1CO)CO | C13H26N2O3Si
reactant | 4-methylmorpholine-N-oxide | 24 mmol, 2.89 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrapropylammonium | 0.4 mmol, 0.15 g | C(CC)[N+](CCC)(CCC)CCC
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dicarbaldehyde | 0.79 g | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C=C1C=O)C=O | C13H22N2O3Si
